US04053601
A solution of equimolar amounts of 4-(3-t-butylamino-2-hydroxypropoxy)-3-(3-carboxypropionyl)benzoic acid and hydrazine hydrate in water was heated under reflux for 16 hours. The volume of the solution was reduced in vacuo to give 4-(3-t-butylamino-2-hydroxypropoxy)-3-(1,4,5,6-tetrahydro-6-oxo-3-pyridazinyl)benzoic acid.

reactant | 4-(3-t-butylamino-2-hydroxypropoxy)-3-(3-carboxypropionyl)benzoic acid | C(C)(C)(C)NCC(COC1=C(C=C(C(=O)O)C=C1)C(CCC(=O)O)=O)O | C18H25NO7
reactant | hydrazine hydrate | O.NN
solvent | water | O | H2O
product | 4-(3-t-butylamino-2-hydroxypropoxy)-3-(1,4,5,6-tetrahydro-6-oxo-3-pyridazinyl)benzoic acid | C(C)(C)(C)NCC(COC1=C(C=C(C(=O)O)C=C1)C1=NNC(CC1)=O)O | C18H25N3O5
